US09145414B2
5-Aminopicolinate (44 mg) was added to a solution of ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate (70 mg) in dimethylsulfoxide (1.5 ml), and the reaction solution was stirred at room temperature for 10 minutes. Thereafter, cyclopropylamine (0.017 ml), diisopropylethylamine (0.079 ml), and HATU (125 mg) were successively added, and the reaction solution was stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate, and washed successively with an aqueous sodium bicarbonate solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain ethyl 5-(6-(cyclopropylcarbamoyl)pyridin-3-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate.

reactant | 5-Aminopicolinate | 44 mg | NC=1C=CC(=NC1)C(=O)[O-]
reactant | ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate | 70 mg | ClC=1N=C(N=NC1C(=O)OCC)SC | C7H8ClN3O2S
reactant | cyclopropylamine | 0.017 ml | C1(CC1)N | C3H7N
reactant | diisopropylethylamine | 0.079 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(6-(cyclopropylcarbamoyl)pyridin-3-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate | C1(CC1)NC(=O)C1=CC=C(C=N1)NC=1N=C(N=NC1C(=O)OCC)SC | C16H18N6O3S
